data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5188,5887,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][C-:23]([C:24]([CH3:25])=[O:26])[C:27](=[O:28])[O:29][CH3:30]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]([C:24]([CH3:25])=[O:26])([C:27](=[O:28])[O:29][CH3:30])[O:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,13.75624395529648,-32.95926394514155
1048,1143,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[CH:16][C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[NH:23][CH3:24].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:21](=[O:22])[NH:23][CH3:24])[NH:15][CH:16]3[C:17](=[O:18])[O:19][CH3:20],water,298.15,13.837058993816225,-44.152663067502935
2570,2851,[CH3:23][O:24][C:25](=[O:26])[C-:27]([C:28]#[N:29])[N+:30]([CH3:31])=[C:32]([C:33]#[N:34])[C:35]([CH3:36])=[O:37].[N:1]#[C:2][CH:3]1[C:4]#[C:5][C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][CH2:21][CH2:22]1>>[N:1]#[C:2][CH:3]1[C:4]2=[C:5]([C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:25]([O:24][CH3:23])=[O:26])([C:28]#[N:29])[N:30]([CH3:31])[C:32]2([C:33]#[N:34])[C:35]([CH3:36])=[O:37],water,298.15,19.74027829223684,-50.45746343877279
3017,3369,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH:11]=[O+:12][NH-:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[O:12][NH:13]1,water,298.15,10.163053763617691,-46.563689358895296
2266,2511,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]([CH3:21])=[O:22])=[N+:23]([CH3:24])[C-:25]([CH3:26])[C:27]#[N:28].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:20]([CH3:21])=[O:22])[N:23]([CH3:24])[C:25]2([CH3:26])[C:27]#[N:28],water,298.15,21.16368406176,-40.593205219502565
2411,2679,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[C:24](=[O+:25][C-:26]([CH3:27])[CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:24]([C:22]([CH3:21])=[O:23])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[O:25][C:26]2([CH3:27])[CH3:28],water,298.15,18.39021336993744,-49.66743400419485
657,717,[CH3:12][C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:15]([C:16]([CH3:17])=[O:18])([C:19](=[O:20])[O:21][CH3:22])[N:14]=[C:13]3[CH3:12],water,298.15,17.957876514619493,-42.20151390401565
462,504,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][N-:19][C:20]#[N:21].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[N:19]([C:20]#[N:21])[N:18]=[C:17]3[C:15]([NH:14][CH3:13])=[O:16],water,298.15,13.535396258379654,-59.36404908535744
3523,4015,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([CH3:18])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,20.531360358544983,-34.213719702235764
5191,5890,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([NH+:19]=[C:20]([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29]([CH3:30])=[O:31]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([C:29]([CH3:30])=[O:31])[NH:19][C:20]2([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,34.05845740978062,4.997551268548662
3530,4028,[CH3:10][C:11]#[N+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:12]=[C:11]1[CH3:10],water,298.15,18.469013194079565,-30.22499991534714
